* /usr/local/bin/xorn netlist --symbol-library /usr/local/share/gEDA/sym/misc --symbol-library /usr/local/share/gEDA/sym/power --symbol-library /usr/local/share/gEDA/sym/relay --symbol-library /usr/local/share/gEDA/sym/opto --symbol-library /usr/local/share/gEDA/sym/supervisor --symbol-library /usr/local/share/gEDA/sym/pla --symbol-library /usr/local/share/gEDA/sym/rf --symbol-library /usr/local/share/gEDA/sym/tube --symbol-library /usr/local/share/gEDA/sym/transistor --symbol-library /usr/local/share/gEDA/sym/micro --symbol-library /usr/local/share/gEDA/sym/memory --symbol-library /usr/local/share/gEDA/sym/bus --symbol-library /usr/local/share/gEDA/sym/xilinx --symbol-library /usr/local/share/gEDA/sym/st --symbol-library /usr/local/share/gEDA/sym/philips --symbol-library /usr/local/share/gEDA/sym/national --symbol-library /usr/local/share/gEDA/sym/minicircuits --symbol-library /usr/local/share/gEDA/sym/maxim --symbol-library /usr/local/share/gEDA/sym/linear --symbol-library /usr/local/share/gEDA/sym/lattice --symbol-library /usr/local/share/gEDA/sym/irf --symbol-library /usr/local/share/gEDA/sym/idt --symbol-library /usr/local/share/gEDA/sym/dec --symbol-library /usr/local/share/gEDA/sym/apex --symbol-library /usr/local/share/gEDA/sym/amphenol --symbol-library /usr/local/share/gEDA/sym/altera --symbol-library /usr/local/share/gEDA/sym/allegro --symbol-library /usr/local/share/gEDA/sym/asicpads --symbol-library /usr/local/share/gEDA/sym/asic --symbol-library /usr/local/share/gEDA/sym/switcap --symbol-library /usr/local/share/gEDA/sym/spice --symbol-library /usr/local/share/gEDA/sym/cascade --symbol-library /usr/local/share/gEDA/sym/ecl --symbol-library /usr/local/share/gEDA/sym/4000 --symbol-library /usr/local/share/gEDA/sym/74 --symbol-library /usr/local/share/gEDA/sym/IEC417 --symbol-library /usr/local/share/gEDA/sym/titleblock --symbol-library /usr/local/share/gEDA/sym/switch --symbol-library /usr/local/share/gEDA/sym/radio --symbol-library /usr/local/share/gEDA/sym/io --symbol-library /usr/local/share/gEDA/sym/net-power --symbol-library /usr/local/share/gEDA/sym/diode --symbol-library /usr/local/share/gEDA/sym/connector --symbol-library /usr/local/share/gEDA/sym/analog --symbol-library /usr/local/share/gEDA/sym/local --symbol-library-search /home/hassin/circuit-simulation/gaf/symbols/ -g guile -O add-to-load-path=/usr/local/share/gEDA/scheme -O load=/usr/local/share/gEDA/scheme/gnetlist.scm -O load=/usr/local/share/gEDA/scheme/gnet-spice-sdb.scm -O load=/usr/local/share/gEDA/scheme/gnetlist-post.scm -O guile-proc=spice-sdb -O use-spice-netnames -v -o dcdc_boost.net dcdc_boost.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from dcdc_boost.sub vvvvvvvv
* LIBRARY OF MY CUSTOM COMPONENTS
* Department: DESE, Indian Institute of Science, Bangalore

***************************************************************
* Diodes
***************************************************************
.model Def D()
****************************************************************
*Diode macro model
.SUBCKT diode_power 101 102
DX 101 102 def_power_diode
Rsh 102 103 10000
Csh 103 101 0.01uF
.model def_power_diode D(RS=0.01, CJO=100pF)
.ENDS
*
*-------------------------------------------------
.model switch SW( RON=0.001 )
*$
*-------------------------------------------------
.SUBCKT  power_sw  nSp  nSn  nVcp 
SW      nSp  nDb  nVcp  0  bidir_sw
Dblock  nDb  nSn  d_switch
Dbody   nSn  nSp  d_switch
.model  bidir_sw  SW( RON=0.001 )
.model  d_switch  D()
.ENDS
*
*-----------------------------------------------------------------------------
.SUBCKT PWMtri nPin nPout fs=78000
atri nPin nPtri triout
.model triout triangle(cntl_array=[0 1] freq_array=[{fs} {fs}] out_low = -1.0 out_high = 1.0 duty_cycle = 0.5)
acompare [nPin nPtri] ncout comp_sum
.model comp_sum summer(in_gain=[1.0 -1.0])
alim ncout nPout limit_comp
.model limit_comp limit(gain=1e6 out_lower_limit=0.0 out_upper_limit=1.0 fraction=FALSE)
.ENDS
*
*^^^^^^^^  End of included SPICE model from dcdc_boost.sub ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
.INCLUDE dcdc_boost.sub
Vc 1 0 0.5
xPWM 1 g PWMtri fs = 78kHz
xSW p 0 g power_sw
Ro 0 o 100
L a p 10mH
D p o Def 
Vin a 0 30V
C o 0 100uF
.end
