* Subcircuit and models file

*Model
.model dmodel D()

.SUBCKT pwrdiode A K
DX A K dmod
RX A M 10k
CX M K 0.01 uf
.model dmod D(Rs=0.01, CJ0=100pf)
.ENDS 

